US04845099
8-(3-(4-(2-Methoxyphenyl)piperazin-1-yl)propoxy)-1-nicotinoyl-1,2,3,4-tetrahydroquinoline-trihydrochloride
0.53 (11.0 mmol) of a 50% strength sodium hydride dispersion is introduced in portions into a solution of 2.54 g (10.0 mmol) of 8-hydroxy-1-nicotinoyl-1,2,3,4-tetrahydroquinoline in 20 ml of anhydrous dimethylformamide and the mixture is subsequently stirred at 40°-50° C. for 30 minutes. After cooling to room temperature, a solution of 4.03 g (15.0 mmol) of 1-(3-chloropropyl)-4-(2-methoxyphenyl)piperazine in 20 ml of anhydrous dimethylformamide is added dropwise and the mixture is subsequently stirred at room temperature for 16 hours. The reaction solution is poured onto 150 ml of ice-water and extracted with methylene chloride and the extracts are washed several times with water, dried and concentrated. The crude product is further purified by column chromatography on silica gel (mobile phase toluene:ethanol 9:1) and converted into the dihydrochloride as described under Example 2(a). The product thus obtained is identical to the product described under 2(a).

reactant | sodium hydride | [H-].[Na+]
reactant | 8-hydroxy-1-nicotinoyl-1,2,3,4-tetrahydroquinoline | 10.0 mmol, 2.54 g | OC=1C=CC=C2CCCN(C12)C(C1=CN=CC=C1)=O | C15H14N2O2
reactant | 1-(3-chloropropyl)-4-(2-methoxyphenyl)piperazine | 15.0 mmol, 4.03 g | ClCCCN1CCN(CC1)C1=C(C=CC=C1)OC | C14H21ClN2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 8-(3-(4-(2-Methoxyphenyl)piperazin-1-yl)propoxy)-1-nicotinoyl-1,2,3,4-tetrahydroquinoline-trihydrochloride | Cl.Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCCOC=1C=CC=C2CCCN(C12)C(C1=CN=CC=C1)=O | InChI=1S/C29H34N4O3.3ClH/c1-35-26-12-3-2-11-25(26)32-19-17-31(18-20-32)15-7-21-36-27-13-4-8-23-10-6-16-33(28(23)27)29(34)24-9-5-14-30-22-24;;;/h2-5,8-9,11-14,22H,6-7,10,15-21H2,1H3;3*1H
